### PR TITLE
Iterative fibonacci example proof

### PR DESCRIPTION
**Pull request by nagyors**
Issue #6 : Implements one of the examples suggested (iterative Fibonacci correctness proof).

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

File: Micro_Rust_Examples/Fibonacci_Iterative.thy [hunk 1]
```diff
@@ -0,0 +1,157 @@
...
+text\<open>This example demonstrates an iterative Fibonacci function implementation
+with a complete correctness proof. We verify that the implementation matches
+the mathematical definition of Fibonacci numbers.\<close>
+
+subsection\<open>Mathematical Specification\<close>
+
+text\<open>First, we define the mathematical Fibonacci function recursively.
+Solution taken from: https://isabelle.in.tum.de/library/HOL/HOL-Number_Theory/Fib.html \<close>
+
+fun fib :: "nat \<Rightarrow> nat" where
```
Comment (dominic-mulligan-aws) [inline Micro_Rust_Examples/Fibonacci_Iterative.thy]: nit: can you use cartouches instead of quotation marks, and match our prevailing style?

File: Micro_Rust_Examples/Fibonacci_Iterative.thy [hunk 2]
```diff
@@ -0,0 +1,157 @@
...
+    fib0: "fib 0 = 0" |
+    fib1: "fib (Suc 0) = 1" |
+    fib2: "fib (Suc (Suc n)) = fib (Suc n) + fib n"
+
+text\<open>Some basic properties of the mathematical definition\<close>
+
+lemma fib_plus_2: "fib (n + 2) = fib (n + 1) + fib n"
```
Comment (dominic-mulligan-aws) [inline Micro_Rust_Examples/Fibonacci_Iterative.thy]: nit: can you phrase lemmas using `assumes` and `shows` and match our prevailing style?

File: Micro_Rust_Examples/Fibonacci_Iterative.thy [hunk 3]
```diff
@@ -0,0 +1,157 @@
...
+
+lemma fib_one_spec:
+  shows \<open>\<Gamma>; fib_iterative 1 \<Turnstile>\<^sub>F fib_one_contract\<close>
+  apply (crush_boot f: fib_iterative_def contract: fib_one_contract_def)
+  apply crush_base
+  done
+
+text\<open>Lastly, prove that the iterative Fibonacci is correct with the mathematical definition.\<close>
+
+definition fib_correct_contract :: \<open>64 word \<Rightarrow> ('s, nat, 'b) function_contract\<close> where
```
Comment (dominic-mulligan-aws) [inline Micro_Rust_Examples/Fibonacci_Iterative.thy:60]: Strictly speaking this is the only contract and functional correctness proof we need...

**Review by dominic-mulligan-aws — COMMENTED** [review]
Thanks for your contribution!  Could you rebase and push again?  I've just got some minor comments...

File: Micro_Rust_Examples/Fibonacci_Iterative.thy (hunk 3 above)
Comment (hanno-becker) [reply Micro_Rust_Examples/Fibonacci_Iterative.thy:63]: Fixed now

**Review by hanno-becker — CHANGES_REQUESTED** [review]
Apologies for the late reply, @nagyors. The change looks good. I took the liberty to squash your two commits into one, but could you please add a DCO signoff? Please also consider if you want to add your name to the Copyright header in the newly added file.
